US09359338B2
Step 1: Synthesis of 1-(chloromethyl)-3-nitro-5-(trifluoromethyl)benzene
Add slowly tosyl chloride (1.1 g, 6.02 mmol) to the mixture of (3-nitro-5-(trifluoromethyl)phenyl)methanol (1.1 g, 5.18 mmol) and triethylamine (1.62 mL) in dichloromethane (20 mL) at 0° C., stir the resulting mixture for 15 hrs at room temperature. Concentrate the mixture to obtain the crude product, purify by flash chromatography (silica gel, EtOAc:PE=1:15) to afford the title compound (655 mg, 55%).

reactant | tosyl chloride | 6.02 mmol, 1.1 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | (3-nitro-5-(trifluoromethyl)phenyl)methanol | 5.18 mmol, 1.1 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)CO | C8H6F3NO3
reactant | triethylamine | 1.62 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-(chloromethyl)-3-nitro-5-(trifluoromethyl)benzene | 655 mg, 55% | ClCC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C8H5ClF3NO2
